US08058045B2
tert-Butyl 4-((2-chloro-5-iodopyridin-4-ylamino)methyl)piperidine-1-carboxylate
NaH (0.098 g, 3.9 mmol) was added to a solution of 2-chloro-5-iodopyridin-4-amine (0.500 g, 1.96 mmol) in DMF (12 mL) and the mixture was stirred for 30 min at r.t. The temperature was then raised to 80° C. and a solution of tert-butyl 4-(bromomethyl)-piperidine-1-carboxylate (1.093 g, 3.93 mmol) in DMF (2 mL) was added. The reaction mixture was stirred at 80° C. for 2 h, then cooled to r.t. NaH (0.050 g, 2.00 mmol) was added and the reaction mixture was heated for 1 h at 80° C. After cooling, water (40 mL) was added and the reaction mixture was partitioned between ethyl acetate and aq. NaHCO3. The organic phase was washed with brine, dried (MgSO4) and concentrated. The crude product was purified by flash silica chromatography, eluting with ethyl acetate and hexane (1/9), to give the title compound as a pink solid (0.405 g, 46%).

reactant | NaH | 3.9 mmol, 0.098 g | [H-].[Na+]
reactant | 2-chloro-5-iodopyridin-4-amine | 1.96 mmol, 0.500 g | ClC1=NC=C(C(=C1)N)I | C5H4ClIN2
reactant | tert-butyl 4-(bromomethyl)-piperidine-1-carboxylate | 3.93 mmol, 1.093 g | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | NaH | 2.00 mmol, 0.050 g | [H-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-((2-chloro-5-iodopyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.405 g, 46% | ClC1=NC=C(C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C)I | C16H23ClIN3O2
